US06977263B2
A solution of N,N-Bis-(tert-butoxycarbonyl)-3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine (100 mg, 0.17 mmol) in methanol (10 ml), cooled to 0° C., was saturated with hydrogen chloride gas. The mixture was stirred at ambient temperature for 4 hours then concentrated to dryness under vacuum. The residue was triturated with a mixture of dichloromethane and diethyl ether to give 3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine hydrochloride as a white amorphous solid (46 mg). 1H NMR [(CD3)2SO, 500 MHz]: δ 7.61-7.30 (m, 13H), 4.62 (br m, 1H), 4.00 (s, 2H), 3.62 (br m, 1H), 3.25 (br m, 1H), 2.85 (br m, 2H), 1.88 (br m, 1H), 1.70 (br m, 3H). MS(EI): 395(M++H).

reactant | N,N-Bis-(tert-butoxycarbonyl)-3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine | 0.17 mmol, 100 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)C#CC1=CC=CC=C1)=O | C37H42N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine hydrochloride | Cl.C1(=CC=CC=C1)C#CC=1C=C(C(=O)N2CCC(CC2)C=2C=C(CN)C=CC2)C=CC1 | InChI=1S/C27H26N2O.ClH/c28-20-23-9-5-10-25(19-23)24-14-16-29(17-15-24)27(30)26-11-4-8-22(18-26)13-12-21-6-2-1-3-7-21;/h1-11,18-19,24H,14-17,20,28H2;1H
